US06531502B1
2,2-Dimethyl-6-formylchromane (commercially available) was condensed with 5-fluoro-2-oxindole to give 0.3 g of 3-(2,2-Dimethylchroman-6-ylmethylene)-5-fluoro-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 2,2-Dimethyl-6-formylchromane | CC1(OC2=CC=C(C=C2CC1)C=O)C | C12H14O2
reactant | 5-fluoro-2-oxindole | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
product | 3-(2,2-Dimethylchroman-6-ylmethylene)-5-fluoro-1,3-dihydroindol-2-one | 0.3 g | CC1(OC2=CC=C(C=C2CC1)C=C1C(NC2=CC=C(C=C12)F)=O)C | C20H18FNO2
